US07524843B2
b) 1-Methyl-2-(propylaminomethyl)-1H-indole
To a solution of 1-methyl-N-cyclopropylindole-2-carboxamide (2.1 g, 9.8 mmole) in dry THF (40 mL) was added dropwise a solution of 1.0 M LiAlH4 in THF (2.2 mL, 22 mmole). The reaction mixture was heated at reflux overnight, then was cooled and quenched with 10% NaOH. The mixture was filtered and the filtrate was concentrated in vacuo. Flash chromatography on silica gel (5% MeOH/CH2Cl2) gave the title compound (0.65 g, 33%) as a viscous oil: MS (ES) m/e 203 (M+H)+.

reactant | 1-methyl-N-cyclopropylindole-2-carboxamide | 9.8 mmole, 2.1 g | CN1C(=CC2=CC=CC=C12)C(=O)NC1CC1 | C13H14N2O
reactant | LiAlH4 | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mmole, 2.2 mL | C1CCOC1 | C4H8O
product | 1-Methyl-2-(propylaminomethyl)-1H-indole | 0.65 g, 33% | CN1C(=CC2=CC=CC=C12)CNCCC | C13H18N2
